US07834041B2
(2S,4S)-4-Benzyloxycarbonylamino-1-{pentyl-[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic Acid Methyl Ester
(2S,4S)-4-Benzyloxycarbonylaminopyrrolidine-2-carboxylic acid methyl ester (1.4 g, 5.1 mmol) and N-pentyl-N-[2′-(2-trityl-2H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl chloride (1 equiv) were dissolved in toluene (100 mL). DIPEA (3 equiv) was added, and the solution was stirred at 90° C. for 16 hours. The solution was cooled, washed with water (100 mL), 1M HCl (100 mL) and saturated aqueous NaHCO3 (100 mL), then dried over Na2SO4. The solvent was evaporated to afford the title compound (3.93 g, 4.5 mmol).

reactant | (2S,4S)-4-Benzyloxycarbonylaminopyrrolidine-2-carboxylic acid methyl ester | 5.1 mmol, 1.4 g | COC(=O)[C@H]1NC[C@H](C1)NC(=O)OCC1=CC=CC=C1 | C14H18N2O4
reactant | N-pentyl-N-[2′-(2-trityl-2H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl chloride | 1 equiv | C(CCCC)N(C(=O)Cl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H36ClN5O
reactant | DIPEA | 3 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | (2S,4S)-4-Benzyloxycarbonylamino-1-{pentyl-[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic Acid Methyl Ester | 4.5 mmol, 3.93 g | COC(=O)[C@H]1N(C[C@H](C1)NC(=O)OCC1=CC=CC=C1)C(N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCCC)=O | C53H53N7O5
